### PR TITLE
[Merged by Bors] - chore: exactly 4 spaces in theorems

### PR DESCRIPTION
**Pull request by mo271**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Hom/Group/Defs.lean [hunk 1]
```diff
@@ -1107,95 +1107,95 @@ theorem MulHom.comp_apply [Mul M] [Mul N] [Mul P] (g : N →ₙ* P) (f : M →
...
-  (g : N →*₀ P) (f : M →*₀ N) (x : M) : g.comp f x = g (f x) := rfl
+    (g : N →*₀ P) (f : M →*₀ N) (x : M) : g.comp f x = g (f x) := rfl
 #align monoid_with_zero_hom.comp_apply MonoidWithZeroHom.comp_apply
 
 /-- Composition of monoid homomorphisms is associative. -/
 @[to_additive "Composition of additive monoid homomorphisms is associative."]
 theorem OneHom.comp_assoc {Q : Type*} [One M] [One N] [One P] [One Q]
-  (f : OneHom M N) (g : OneHom N P) (h : OneHom P Q) :
+    (f : OneHom M N) (g : OneHom N P) (h : OneHom P Q) :
   (h.comp g).comp f = h.comp (g.comp f) := rfl
```
Comment (ADedecker) [inline Mathlib/Algebra/Hom/Group/Defs.lean:1122]:
```suggestion
    (h.comp g).comp f = h.comp (g.comp f) := rfl
```

File: Mathlib/Algebra/Hom/Group/Defs.lean [hunk 2]
```diff
@@ -1107,95 +1107,95 @@ theorem MulHom.comp_apply [Mul M] [Mul N] [Mul P] (g : N →ₙ* P) (f : M →
...
-  (f : M →ₙ* N) (g : N →ₙ* P) (h : P →ₙ* Q) : (h.comp g).comp f = h.comp (g.comp f) := rfl
+    (f : M →ₙ* N) (g : N →ₙ* P) (h : P →ₙ* Q) : (h.comp g).comp f = h.comp (g.comp f) := rfl
 #align mul_hom.comp_assoc MulHom.comp_assoc
 #align add_hom.comp_assoc AddHom.comp_assoc
 
 @[to_additive]
 theorem MonoidHom.comp_assoc {Q : Type*} [MulOneClass M] [MulOneClass N] [MulOneClass P]
-  [MulOneClass Q] (f : M →* N) (g : N →* P) (h : P →* Q) :
+    [MulOneClass Q] (f : M →* N) (g : N →* P) (h : P →* Q) :
   (h.comp g).comp f = h.comp (g.comp f) := rfl
```
Comment (ADedecker) [inline Mathlib/Algebra/Hom/Group/Defs.lean:1135]:
```suggestion
    (h.comp g).comp f = h.comp (g.comp f) := rfl
```

File: Mathlib/Algebra/Hom/Group/Defs.lean [hunk 3]
```diff
@@ -1107,95 +1107,95 @@ theorem MulHom.comp_apply [Mul M] [Mul N] [Mul P] (g : N →ₙ* P) (f : M →
...
+    (hf : Function.Surjective f) : g₁.comp f = g₂.comp f ↔ g₁ = g₂ :=
   ⟨fun h => MulHom.ext <| hf.forall.2 (FunLike.ext_iff.1 h), fun h => h ▸ rfl⟩
 #align mul_hom.cancel_right MulHom.cancel_right
 #align add_hom.cancel_right AddHom.cancel_right
 
 @[to_additive]
 theorem MonoidHom.cancel_right [MulOneClass M] [MulOneClass N] [MulOneClass P]
-  {g₁ g₂ : N →* P} {f : M →* N} (hf : Function.Surjective f) :
+    {g₁ g₂ : N →* P} {f : M →* N} (hf : Function.Surjective f) :
   g₁.comp f = g₂.comp f ↔ g₁ = g₂ :=
```
Comment (ADedecker) [inline Mathlib/Algebra/Hom/Group/Defs.lean:1161]:
```suggestion
    g₁.comp f = g₂.comp f ↔ g₁ = g₂ :=
```

File: Mathlib/Algebra/Hom/Group/Defs.lean [hunk 4]
```diff
@@ -1107,95 +1107,95 @@ theorem MulHom.comp_apply [Mul M] [Mul N] [Mul P] (g : N →ₙ* P) (f : M →
...
   ⟨fun h => MonoidHom.ext <| hf.forall.2 (FunLike.ext_iff.1 h), fun h => h ▸ rfl⟩
 #align monoid_hom.cancel_right MonoidHom.cancel_right
 #align add_monoid_hom.cancel_right AddMonoidHom.cancel_right
 
 theorem MonoidWithZeroHom.cancel_right [MulZeroOneClass M] [MulZeroOneClass N] [MulZeroOneClass P]
-  {g₁ g₂ : N →*₀ P} {f : M →*₀ N} (hf : Function.Surjective f) :
+    {g₁ g₂ : N →*₀ P} {f : M →*₀ N} (hf : Function.Surjective f) :
   g₁.comp f = g₂.comp f ↔ g₁ = g₂ :=
```
Comment (ADedecker) [inline Mathlib/Algebra/Hom/Group/Defs.lean:1168]:
```suggestion
    g₁.comp f = g₂.comp f ↔ g₁ = g₂ :=
```

File: Mathlib/CategoryTheory/Sites/EffectiveEpimorphic.lean [hunk 5]
```diff
@@ -106,7 +106,7 @@ def EffectiveEpi.getStruct {X Y : C} (f : Y ⟶ X) [EffectiveEpi f] : EffectiveE
 /-- Descend along an effective epi. -/
 noncomputable
 def EffectiveEpi.desc {X Y W : C} (f : Y ⟶ X) [EffectiveEpi f]
-  (e : Y ⟶ W) (h : ∀ {Z : C} (g₁ g₂ : Z ⟶ Y), g₁ ≫ f = g₂ ≫ f → g₁ ≫ e = g₂ ≫ e) :
+    (e : Y ⟶ W) (h : ∀ {Z : C} (g₁ g₂ : Z ⟶ Y), g₁ ≫ f = g₂ ≫ f → g₁ ≫ e = g₂ ≫ e) :
   X ⟶ W := (EffectiveEpi.getStruct f).desc e h
```
Comment (ADedecker) [inline Mathlib/CategoryTheory/Sites/EffectiveEpimorphic.lean:110]:
```suggestion
    X ⟶ W := (EffectiveEpi.getStruct f).desc e h
```

File: Mathlib/CategoryTheory/Subobject/MonoOver.lean [hunk 6]
```diff
@@ -190,7 +190,7 @@ theorem lift_obj_arrow {Y : D} (F : Over Y ⥤ Over X)
 are equivalent to monomorphisms over the source of `f`.
 -/
 def slice {A : C} {f : Over A}
-  (h₁ : ∀ (g : MonoOver f),
+    (h₁ : ∀ (g : MonoOver f),
     Mono ((Over.iteratedSliceEquiv f).functor.obj ((forget f).obj g)).hom)
   (h₂ : ∀ (g : MonoOver f.left),
```
Comment (ADedecker) [inline Mathlib/CategoryTheory/Subobject/MonoOver.lean:195]:
```suggestion
    (h₂ : ∀ (g : MonoOver f.left),
```

File: Mathlib/CategoryTheory/Triangulated/Triangulated.lean [hunk 7]
```diff
@@ -147,7 +147,7 @@ def someOctahedron' [IsTriangulated C] : Octahedron comm h₁₂ h₂₃ h₁₃
 
 /-- A choice of octahedron given by the octahedron axiom. -/
 def someOctahedron [IsTriangulated C]
-  {X₁ X₂ X₃ Z₁₂ Z₂₃ Z₁₃ : C}
+    {X₁ X₂ X₃ Z₁₂ Z₂₃ Z₁₃ : C}
   {u₁₂ : X₁ ⟶ X₂} {u₂₃ : X₂ ⟶ X₃} {u₁₃ : X₁ ⟶ X₃} (comm : u₁₂ ≫ u₂₃ = u₁₃)
   {v₁₂ : X₂ ⟶ Z₁₂} {w₁₂ : Z₁₂ ⟶ X₁⟦(1 : ℤ)⟧} (h₁₂ : Triangle.mk u₁₂ v₁₂ w₁₂ ∈ distTriang C)
   {v₂₃ : X₃ ⟶ Z₂₃} {w₂₃ : Z₂₃ ⟶ X₂⟦(1 : ℤ)⟧} (h₂₃ : Triangle.mk u₂₃ v₂₃ w₂₃ ∈ distTriang C)
```
Comment (ADedecker) [inline Mathlib/CategoryTheory/Triangulated/Triangulated.lean:153]:
```suggestion
    {u₁₂ : X₁ ⟶ X₂} {u₂₃ : X₂ ⟶ X₃} {u₁₃ : X₁ ⟶ X₃} (comm : u₁₂ ≫ u₂₃ = u₁₃)
    {v₁₂ : X₂ ⟶ Z₁₂} {w₁₂ : Z₁₂ ⟶ X₁⟦(1 : ℤ)⟧} (h₁₂ : Triangle.mk u₁₂ v₁₂ w₁₂ ∈ distTriang C)
    {v₂₃ : X₃ ⟶ Z₂₃} {w₂₃ : Z₂₃ ⟶ X₂⟦(1 : ℤ)⟧} (h₂₃ : Triangle.mk u₂₃ v₂₃ w₂₃ ∈ distTriang C)
```

Comment (ADedecker) [reply Mathlib/CategoryTheory/Triangulated/Triangulated.lean:153]: Same for the line below (which I could not select...)

File: Mathlib/Control/Functor/Multivariate.lean [hunk 8]
```diff
@@ -121,7 +121,7 @@ section LiftP'
 variable (F)
 
 theorem exists_iff_exists_of_mono {P : F α → Prop} {q : F β → Prop}
-                                  (f : α ⟹ β) (g : β ⟹ α)
+    (f : α ⟹ β) (g : β ⟹ α)
```
Comment (ADedecker) [inline Mathlib/Control/Functor/Multivariate.lean:124]: Could you either undo this or fix the rest of the statement?

File: Mathlib/Data/ENat/Basic.lean [hunk 9]
```diff
@@ -119,8 +119,8 @@ theorem toNat_top : toNat ⊤ = 0 :=
 /-- Recursor for `ENat` using the preferred forms `⊤` and `↑a`. -/
 @[elab_as_elim]
 def recTopCoe {C : ℕ∞ → Sort*} (h₁ : C ⊤) (h₂ : ∀ a : ℕ, C a) : ∀ n : ℕ∞, C n
-| none => h₁
-| Option.some a => h₂ a
+  | none => h₁
+  | Option.some a => h₂ a
```
Comment (ADedecker) [inline Mathlib/Data/ENat/Basic.lean:123]: Are you sure this is the right convention?

File: Mathlib/Data/List/Chain.lean [hunk 10]
```diff
@@ -164,7 +164,7 @@ theorem chain_iff_get {R} : ∀ {a : α} {l : List α}, Chain R a l ↔
 set_option linter.deprecated false in
 @[deprecated chain_iff_get]
 theorem chain_iff_nthLe {R} {a : α} {l : List α} : Chain R a l ↔
-        (∀ h : 0 < length l, R a (nthLe l 0 h)) ∧
+    (∀ h : 0 < length l, R a (nthLe l 0 h)) ∧
           ∀ (i) (h : i < length l - 1),
             R (nthLe l i (lt_of_lt_pred h)) (nthLe l (i + 1) (lt_pred_iff.mp h)) :=
```
Comment (ADedecker) [inline Mathlib/Data/List/Chain.lean:169]: Could you fix this part of the statement too?

File: Mathlib/Data/List/Defs.lean [hunk 11]
```diff
@@ -436,7 +436,7 @@ Example: suppose `l = [1, 2, 3]`. `mapDiagM' f l` will evaluate, in this order,
 `f 1 1`, `f 1 2`, `f 1 3`, `f 2 2`, `f 2 3`, `f 3 3`.
 -/
 def mapDiagM' {m} [Monad m] {α} (f : α → α → m Unit) : List α → m Unit
--- as ported:
+    -- as ported:
```
Comment (ADedecker) [inline Mathlib/Data/List/Defs.lean:439]:
```suggestion
-- as ported:
```

File: Mathlib/Data/PFunctor/Multivariate/M.lean [hunk 12]
```diff
@@ -143,7 +143,7 @@ set_option linter.uppercaseLean3 false in
 
 /-- Using corecursion, construct the contents of an M-type -/
 def M.corecContents {α : TypeVec.{u} n}
-                    {β : Type u}
+    {β : Type u}
```
Comment (ADedecker) [inline Mathlib/Data/PFunctor/Multivariate/M.lean:146]: Same as above, could you either undo this or change the whole statement?

File: Mathlib/Data/Seq/Computation.lean [hunk 13]
```diff
@@ -1076,7 +1076,7 @@ theorem LiftRel.trans (R : α → α → Prop) (H : Transitive R) : Transitive (
 #align computation.lift_rel.trans Computation.LiftRel.trans
 
 theorem LiftRel.equiv (R : α → α → Prop) : Equivalence R → Equivalence (LiftRel R)
-  -- Porting note: The code below was:
+    -- Porting note: The code below was:
```
Comment (ADedecker) [inline Mathlib/Data/Seq/Computation.lean:1079]:
```suggestion
  -- Porting note: The code below was:
```

File: Mathlib/Data/Sym/Sym2.lean [hunk 14]
```diff
@@ -219,7 +219,7 @@ def lift₂ :
 
 @[simp]
 theorem lift₂_mk''
-  (f :
+    (f :
     { f : α → α → β → β → γ //
       ∀ a₁ a₂ b₁ b₂, f a₁ a₂ b₁ b₂ = f a₂ a₁ b₁ b₂ ∧ f a₁ a₂ b₁ b₂ = f a₁ a₂ b₂ b₁ })
   (a₁ a₂ : α) (b₁ b₂ : β) : lift₂ f ⟦(a₁, a₂)⟧ ⟦(b₁, b₂)⟧ = (f : α → α → β → β → γ) a₁ a₂ b₁ b₂ :=
```
Comment (ADedecker) [inline Mathlib/Data/Sym/Sym2.lean:225]:
```suggestion
    (a₁ a₂ : α) (b₁ b₂ : β) : lift₂ f ⟦(a₁, a₂)⟧ ⟦(b₁, b₂)⟧ = (f : α → α → β → β → γ) a₁ a₂ b₁ b₂ :=
```

File: Mathlib/Data/TypeVec.lean [hunk 15]
```diff
@@ -243,26 +243,21 @@ theorem splitFun_comp {α₀ α₁ α₂ : TypeVec (n + 1)} (f₀ : drop α₀ 
...
-   appendFun f₁ g₁ ⊚ splitFun f₀ g₀
-      = splitFun (α' := γ.append1 δ) (f₁ ⊚ f₀) (g₁ ∘ g₀) :=
+    (f₀ : drop ε ⟹ α) (f₁ : α ⟹ γ) (g₀ : last ε → β) (g₁ : β → δ) :
+     appendFun f₁ g₁ ⊚ splitFun f₀ g₀ = splitFun (α' := γ.append1 δ) (f₁ ⊚ f₀) (g₁ ∘ g₀) :=
   (splitFun_comp _ _ _ _).symm
 #align typevec.append_fun_comp_split_fun TypeVec.appendFun_comp_splitFun
 
 theorem appendFun_comp  {α₀ α₁ α₂ : TypeVec n}
-                        {β₀ β₁ β₂ : Type*}
+    {β₀ β₁ β₂ : Type*}
```
Comment (ADedecker) [inline Mathlib/Data/TypeVec.lean:252]: Same as above

File: Mathlib/Data/Vector/Basic.lean [hunk 16]
```diff
@@ -522,16 +522,14 @@ def casesOn {motive : ∀ {n}, Vector α n → Sort*} (v : Vector α m)
...
 /-- Define `motive v₁ v₂` by case-analysis on `v₁ : Vector α n` and `v₂ : Vector β n` -/
 def casesOn₂  {motive : ∀{n}, Vector α n → Vector β n → Sort*} (v₁ : Vector α m) (v₂ : Vector β m)
-              (nil : motive nil nil)
-              (cons : ∀{n}, (x : α) → (y : β) → (xs : Vector α n) → (ys : Vector β n)
-                      → motive (x ::ᵥ xs) (y ::ᵥ ys)) :
-              motive v₁ v₂ :=
-    inductionOn₂ (C := motive) v₁ v₂ nil @fun _ x y xs ys _ => cons x y xs ys
+    (nil : motive nil nil) (cons : ∀{n}, (x : α) → (y : β) → (xs : Vector α n) → (ys : Vector β n)
+    → motive (x ::ᵥ xs) (y ::ᵥ ys)) : motive v₁ v₂ :=
+  inductionOn₂ (C := motive) v₁ v₂ nil @fun _ x y xs ys _ => cons x y xs ys
```
Comment (ADedecker) [inline Mathlib/Data/Vector/Basic.lean:527]: I don't think this is an improvement. Moving things back to the normal indentation is fine, but having each argument on its own line with extra indentations makes things clearer here imho.

File: Mathlib/CategoryTheory/Triangulated/Triangulated.lean (hunk 7 above)
Comment (mo271) [reply Mathlib/CategoryTheory/Triangulated/Triangulated.lean]: done

File: Mathlib/Data/List/Chain.lean (hunk 10 above)
Comment (mo271) [reply Mathlib/Data/List/Chain.lean]: done

File: Mathlib/Data/PFunctor/Multivariate/M.lean (hunk 12 above)
Comment (mo271) [reply Mathlib/Data/PFunctor/Multivariate/M.lean:146]: done

File: Mathlib/Data/TypeVec.lean (hunk 15 above)
Comment (mo271) [reply Mathlib/Data/TypeVec.lean:252]: done

File: Mathlib/Data/Vector/Basic.lean (hunk 16 above)
Comment (mo271) [reply Mathlib/Data/Vector/Basic.lean:528]: moved back to old line, but with normal indentation.

File: Mathlib/Control/Functor/Multivariate.lean (hunk 8 above)
Comment (mo271) [reply Mathlib/Control/Functor/Multivariate.lean]: done

File: Mathlib/Data/List/Defs.lean (hunk 11 above)
Comment (mo271) [reply Mathlib/Data/List/Defs.lean]: unindented as suggested and moved the comment below.

File: Mathlib/Data/Seq/Computation.lean (hunk 13 above)
Comment (mo271) [reply Mathlib/Data/Seq/Computation.lean]: same as above. Unindented and moved below

File: Mathlib/Data/ENat/Basic.lean (hunk 9 above)
Comment (mo271) [reply Mathlib/Data/ENat/Basic.lean:123]: The vast majority of cases are like that, but your question has made me asking for more opinions: 
https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/style.20for.20proofs.20with.20.60.7C.60.2E

Comment (mo271) [reply Mathlib/Data/ENat/Basic.lean:123]: seems like two spaces is the consensus

File: Mathlib/Algebra/Hom/Equiv/Units/Basic.lean [hunk 17]
```diff
@@ -204,7 +204,7 @@ theorem divLeft_eq_inv_trans_mulLeft (a : G) :
 /-- A version of `Equiv.mulRight a⁻¹ b` that is defeq to `b / a`. -/
 @[to_additive (attr := simps) " A version of `Equiv.addRight (-a) b` that is defeq to `b - a`. "]
 protected def divRight (a : G) : G ≃
-      G where
+    G where
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Hom/Equiv/Units/Basic.lean:207]: This can go on one line

File: Mathlib/Algebra/Hom/Group/Defs.lean [hunk 18]
```diff
@@ -404,15 +404,15 @@ theorem map_mul_eq_one [MonoidHomClass F M N] (f : F) {a b : M} (h : a * b = 1)
 
 @[to_additive]
 theorem map_div' [DivInvMonoid G] [DivInvMonoid H] [MonoidHomClass F G H]
-  (f : F) (hf : ∀ a, f a⁻¹ = (f a)⁻¹) (a b : G) : f (a / b) = f a / f b :=
+    (f : F) (hf : ∀ a, f a⁻¹ = (f a)⁻¹) (a b : G) : f (a / b) = f a / f b :=
   by rw [div_eq_mul_inv, div_eq_mul_inv, map_mul, hf]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Hom/Group/Defs.lean:408]: More commonly
```suggestion
    (f : F) (hf : ∀ a, f a⁻¹ = (f a)⁻¹) (a b : G) : f (a / b) = f a / f b := by
  rw [div_eq_mul_inv, div_eq_mul_inv, map_mul, hf]
```

File: Mathlib/Algebra/Hom/Units.lean [hunk 19]
```diff
@@ -45,7 +45,7 @@ equal at `x⁻¹`. -/
   "If two homomorphisms from a subtraction monoid to an additive monoid are equal at an
   additive unit `x`, then they are equal at `-x`."]
 theorem IsUnit.eq_on_inv {F G N} [DivisionMonoid G] [Monoid N] [MonoidHomClass F G N]
-  {x : G} (hx : IsUnit x) (f g : F) (h : f x = g x) : f x⁻¹ = g x⁻¹ :=
+    {x : G} (hx : IsUnit x) (f g : F) (h : f x = g x) : f x⁻¹ = g x⁻¹ :=
 left_inv_eq_right_inv (map_mul_eq_one f hx.inv_mul_cancel)
   (h.symm ▸ map_mul_eq_one g (hx.mul_inv_cancel))
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Hom/Units.lean:50]:
```suggestion
  left_inv_eq_right_inv (map_mul_eq_one f hx.inv_mul_cancel)
    (h.symm ▸ map_mul_eq_one g (hx.mul_inv_cancel))
```

File: Mathlib/Algebra/Hom/Units.lean [hunk 20]
```diff
@@ -223,15 +223,15 @@ theorem map [MonoidHomClass F M N] (f : F) {x : M} (h : IsUnit x) : IsUnit (f x)
 
 @[to_additive]
 theorem of_leftInverse [MonoidHomClass F M N] [MonoidHomClass G N M] {f : F} {x : M} (g : G)
-  (hfg : Function.LeftInverse g f) (h : IsUnit (f x)) : IsUnit x :=
+    (hfg : Function.LeftInverse g f) (h : IsUnit (f x)) : IsUnit x :=
   by simpa only [hfg x] using h.map g
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Hom/Units.lean:227]:
```suggestion
    (hfg : Function.LeftInverse g f) (h : IsUnit (f x)) : IsUnit x := by
  simpa only [hfg x] using h.map g
```

File: Mathlib/Data/TypeVec.lean [hunk 21]
```diff
@@ -243,26 +243,21 @@ theorem splitFun_comp {α₀ α₁ α₂ : TypeVec (n + 1)} (f₀ : drop α₀ 
...
 
 theorem appendFun_comp_splitFun {α γ : TypeVec n} {β δ : Type*} {ε : TypeVec (n + 1)}
-          (f₀ : drop ε ⟹ α)
-          (f₁ : α ⟹ γ)
-          (g₀ : last ε → β)
-          (g₁ : β → δ) :
-   appendFun f₁ g₁ ⊚ splitFun f₀ g₀
-      = splitFun (α' := γ.append1 δ) (f₁ ⊚ f₀) (g₁ ∘ g₀) :=
+    (f₀ : drop ε ⟹ α) (f₁ : α ⟹ γ) (g₀ : last ε → β) (g₁ : β → δ) :
+     appendFun f₁ g₁ ⊚ splitFun f₀ g₀ = splitFun (α' := γ.append1 δ) (f₁ ⊚ f₀) (g₁ ∘ g₀) :=
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/TypeVec.lean:247]: This looks like 5 spaces

File: Mathlib/Algebra/Hom/Equiv/Units/Basic.lean (hunk 17 above)
Comment (mo271) [reply Mathlib/Algebra/Hom/Equiv/Units/Basic.lean]: done

File: Mathlib/Data/Vector/Basic.lean (hunk 16 above)
Comment (mo271) [reply Mathlib/Data/Vector/Basic.lean]: Should be fixed now

File: Mathlib/Data/TypeVec.lean (hunk 21 above)
Comment (mo271) [reply Mathlib/Data/TypeVec.lean]: done

File: Mathlib/Data/Vector/Basic.lean [hunk 22]
```diff
@@ -516,22 +516,21 @@ def inductionOn₃ {C : ∀ {n}, Vector α n → Vector β n → Vector γ n →
...
 
 /-- Define `motive v₁ v₂ v₃` by case-analysis on `v₁ : Vector α n`, `v₂ : Vector β n`, and
     `v₃ : Vector γ n` -/
 def casesOn₃  {motive : ∀{n}, Vector α n → Vector β n → Vector γ n → Sort*} (v₁ : Vector α m)
-              (v₂ : Vector β m) (v₃ : Vector γ m) (nil : motive nil nil nil)
+    (v₂ : Vector β m) (v₃ : Vector γ m) (nil : motive nil nil nil)
               (cons : ∀{n}, (x : α) → (y : β) → (z : γ) → (xs : Vector α n) → (ys : Vector β n)
                         → (zs : Vector γ n) → motive (x ::ᵥ xs) (y ::ᵥ ys) (z ::ᵥ zs)) :
               motive v₁ v₂ v₃ :=
```
[the remark this answers is not in the document]
Comment (mo271) [reply Mathlib/Data/Vector/Basic.lean]: both done

File: Mathlib/Tactic/ToAdditive.lean [hunk 23]
```diff
@@ -1097,7 +1097,7 @@ This is useful for lemmas about `Pow` to generate both lemmas about `SMul` and `
 ```
 @[to_additive (attr := to_additive VAdd_lemma, simp) SMul_lemma]
 lemma Pow_lemma ...
-```
+    ```
```
[the remark this answers is not in the document]
Comment (mo271) [reply Mathlib/Tactic/ToAdditive.lean]: fixed, shouldn't be a problem in #7283

File: Mathlib/Data/PFunctor/Multivariate/M.lean (hunk 12 above)
Comment (mo271) [reply Mathlib/Data/PFunctor/Multivariate/M.lean:146]: should be done now

File: Mathlib/Algebra/Algebra/NonUnitalSubalgebra.lean [hunk 24]
```diff
@@ -546,9 +546,9 @@ theorem adjoin_induction₂ {s : Set A} {p : A → A → Prop} {a b : A} (ha : a
...
 lemma adjoin_induction' {s : Set A} {p : adjoin R s → Prop} (a : adjoin R s)
-  (Hs : ∀ x (h : x ∈ s), p ⟨x, subset_adjoin R h⟩)
-  (Hadd : ∀ x y, p x → p y → p (x + y)) (H0 : p 0)
-  (Hmul : ∀ x y, p x → p y → p (x * y)) (Hsmul : ∀ (r : R) x, p x → p (r • x)) : p a :=
+    (Hs : ∀ x (h : x ∈ s), p ⟨x, subset_adjoin R h⟩)
+    (Hadd : ∀ x y, p x → p y → p (x + y)) (H0 : p 0)
+    (Hmul : ∀ x y, p x → p y → p (x * y)) (Hsmul : ∀ (r : R) x, p x → p (r • x)) : p a :=
 Subtype.recOn a <| fun b hb => by
   refine Exists.elim ?_ (fun (hb : b ∈ adjoin R s) (hc : p ⟨b, hb⟩) => hc)
   apply adjoin_induction hb
```
Comment (eric-wieser) [inline Mathlib/Algebra/Algebra/NonUnitalSubalgebra.lean:554]: This proof should be indented too

File: Mathlib/Data/Vector/Basic.lean [hunk 25]
```diff
@@ -516,26 +516,27 @@ def inductionOn₃ {C : ∀ {n}, Vector α n → Vector β n → Vector γ n →
...
 /-- Define `motive v₁ v₂` by case-analysis on `v₁ : Vector α n` and `v₂ : Vector β n` -/
 def casesOn₂  {motive : ∀{n}, Vector α n → Vector β n → Sort*} (v₁ : Vector α m) (v₂ : Vector β m)
-              (nil : motive nil nil)
-              (cons : ∀{n}, (x : α) → (y : β) → (xs : Vector α n) → (ys : Vector β n)
-                      → motive (x ::ᵥ xs) (y ::ᵥ ys)) :
-              motive v₁ v₂ :=
-    inductionOn₂ (C := motive) v₁ v₂ nil @fun _ x y xs ys _ => cons x y xs ys
+    (nil : motive nil nil)
+    (cons : ∀{n}, (x : α) → (y : β) → (xs : Vector α n) → (ys : Vector β n)
+    → motive (x ::ᵥ xs) (y ::ᵥ ys)) :
```
Comment (eric-wieser) [inline Mathlib/Data/Vector/Basic.lean:528]:
```suggestion
      → motive (x ::ᵥ xs) (y ::ᵥ ys)) :
```
since this is within parentheses

File: Mathlib/Data/Vector/Basic.lean [hunk 26]
```diff
@@ -516,26 +516,27 @@ def inductionOn₃ {C : ∀ {n}, Vector α n → Vector β n → Vector γ n →
...
     `v₃ : Vector γ n` -/
 def casesOn₃  {motive : ∀{n}, Vector α n → Vector β n → Vector γ n → Sort*} (v₁ : Vector α m)
-              (v₂ : Vector β m) (v₃ : Vector γ m) (nil : motive nil nil nil)
-              (cons : ∀{n}, (x : α) → (y : β) → (z : γ) → (xs : Vector α n) → (ys : Vector β n)
-                        → (zs : Vector γ n) → motive (x ::ᵥ xs) (y ::ᵥ ys) (z ::ᵥ zs)) :
-              motive v₁ v₂ v₃ :=
-    inductionOn₃ (C := motive) v₁ v₂ v₃ nil @fun _ x y z xs ys zs _ => cons x y z xs ys zs
+    (v₂ : Vector β m) (v₃ : Vector γ m) (nil : motive nil nil nil)
+    (cons : ∀{n}, (x : α) → (y : β) → (z : γ) → (xs : Vector α n) → (ys : Vector β n)
+    → (zs : Vector γ n) → motive (x ::ᵥ xs) (y ::ᵥ ys) (z ::ᵥ zs)) :
```
Comment (eric-wieser) [inline Mathlib/Data/Vector/Basic.lean:537]:
```suggestion
    (cons : ∀{n}, (x : α) → (y : β) → (z : γ) → (xs : Vector α n) → (ys : Vector β n)
      → (zs : Vector γ n) → motive (x ::ᵥ xs) (y ::ᵥ ys) (z ::ᵥ zs)) :
```

File: Mathlib/FieldTheory/RatFunc.lean [hunk 27]
```diff
@@ -129,7 +129,7 @@ theorem ofFractionRing_injective : Function.Injective (ofFractionRing : _ → Ra
 #align ratfunc.of_fraction_ring_injective RatFunc.ofFractionRing_injective
 
 theorem toFractionRing_injective : Function.Injective (toFractionRing : _ → FractionRing K[X])
-  -- porting note: the `xy` input was `rfl` and then there was no need for the `subst`
+    -- porting note: the `xy` input was `rfl` and then there was no need for the `subst`
```
Comment (eric-wieser) [inline Mathlib/FieldTheory/RatFunc.lean:132]:
```suggestion
  -- porting note: the `xy` input was `rfl` and then there was no need for the `subst`
```

File: Mathlib/NumberTheory/PellMatiyasevic.lean [hunk 28]
```diff
@@ -103,7 +103,7 @@ theorem d_pos : 0 < d a1 :=
 `d = a ^ 2 - 1`, defined together in mutual recursion. -/
 --@[nolint dup_namespace]
 def pell : ℕ → ℕ × ℕ
-  --Porting note: used pattern matching because `Nat.recOn` is noncomputable
+    --Porting note: used pattern matching because `Nat.recOn` is noncomputable
```
Comment (eric-wieser) [inline Mathlib/NumberTheory/PellMatiyasevic.lean:106]:
```suggestion
  --Porting note: used pattern matching because `Nat.recOn` is noncomputable
```

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 29]
```diff
@@ -997,7 +997,7 @@ theorem div_mul_cancel : ∀ {a b : Ordinal}, a ≠ 0 → a ∣ b → a * (b / a
 #align ordinal.div_mul_cancel Ordinal.div_mul_cancel
 
 theorem le_of_dvd : ∀ {a b : Ordinal}, b ≠ 0 → a ∣ b → a ≤ b
-  -- Porting note: `⟨b, rfl⟩ => by` → `⟨b, e⟩ => by subst e`
+    -- Porting note: `⟨b, rfl⟩ => by` → `⟨b, e⟩ => by subst e`
```
Comment (eric-wieser) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean:1000]:
```suggestion
  -- Porting note: `⟨b, rfl⟩ => by` → `⟨b, e⟩ => by subst e`
```

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks!

File: Mathlib/Algebra/Algebra/NonUnitalSubalgebra.lean (hunk 24 above)
Comment (mo271) [reply Mathlib/Algebra/Algebra/NonUnitalSubalgebra.lean]: done
